US08053588B2
Firstly, a mixture of 5,5′-dibromo-2,2′-bipyridyl (300 mg, 0.96 mmol), PdCl2(PPh3)2 (60 mg, 0.085 mmol) and CuI (30 mg, 0.16 mmol) was added with dist. THF (18 mL), dist. i-Pr2NH (2.4 mL) and trimethylsilylacetylene (467 μL, 3.3 mmol). The resultant mixture was then stirred under a nitrogen atmosphere at room temperature for 29 hours to obtain a reaction mixture. Subsequently, a salt contained in the reaction mixture was removed through a celite filtration process. The organic layer thus obtained was concentrated to obtain a crude product (I) Then, the obtained crude product (I) was separated and purified by silica gel column chromatography (CH2Cl2=100) to obtain 5,5′-bis(trimethylsilylethynyl)-2,2′-bipyridyl.

reactant | 5,5′-dibromo-2,2′-bipyridyl | 0.96 mmol, 300 mg | BrC=1C=CC(=NC1)C1=NC=C(C=C1)Br | C10H6Br2N2
reactant | i-Pr2NH | 2.4 mL | N(C(C)C)C(C)C | C6H15N
reactant | trimethylsilylacetylene | 3.3 mmol, 467 μL | C[Si](C)(C)C#C | C5H10Si
catalyst | PdCl2(PPh3)2 | 0.085 mmol, 60 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.16 mmol, 30 mg | [Cu]I
solvent | THF | 18 mL | C1CCOC1 | C4H8O
product | 5,5′-bis(trimethylsilylethynyl)-2,2′-bipyridyl | C[Si](C)(C)C#CC=1C=CC(=NC1)C1=NC=C(C=C1)C#C[Si](C)(C)C | C20H24N2Si2
